US06187779B1
2-(2-n-Propoxy-5-Morpholinosulfonylphenyl)-8-(1-Hepten-1-yl)Quinazolin-4(3H)-One
The title compound is prepared analogously to the method of Example 1, starting with 2-(2-n-propoxy-5-morpholinosulfonylphenyl)-8-bromoquinazolin-4(3H)-one and 1-heptene.

reactant | 2-(2-n-propoxy-5-morpholinosulfonylphenyl)-8-bromoquinazolin-4(3H)-one | C(CC)OC1=C(C=C(C=C1)S(=O)(=O)N1CCOCC1)C1=NC2=C(C=CC=C2C(N1)=O)Br | C21H22BrN3O5S
reactant | 1-heptene | C=CCCCCC | C7H14
product | 2-(2-n-Propoxy-5-Morpholinosulfonylphenyl)-8-(1-Hepten-1-yl)Quinazolin-4(3H)-One | Yield: 53.2% | C(CC)OC1=C(C=C(C=C1)S(=O)(=O)N1CCOCC1)C1=NC2=C(C=CC=C2C(N1)=O)C=CCCCCC | C28H35N3O5S
